US06410556B1
2-Amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (0.50 g; 1.2 mmol) was dissolved in N,N-dimethylformamide (20 ml). 1-Hydroxy-7-azabenzotriazole (0.19 g; 1.3 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.26 g; 1.3 mmol) and diisopropyl-ethylamine (0.23 ml; 1.3 mmol) were added and the mixture was stirred for 15 min. 5-Benzyloxyindole (0.36 g; 1.3 mmol) was dissolved in N,N-dimethylformamide (20 ml) and added. Diisopropylethylamine (0.23 ml; 1.3 mmol) was added and the mixture was stirred overnight. The solvent was removed in vacuo, the residue dissolved in dichloromethane (30 ml) and the organic phase washed with an aqueous solution of sodium hydrogencarbonate (15 ml). The organic phase was dried (MgSO4), filtered and the solvent removed in vacuo. The residue was chromatographed on silica using ethyl acetate/heptane (1:1) as eluent affording 569 mg of 2-amino-7-(((5-benzyloxy-1H-indole-2-carbonyl)amino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-Amino-7-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 1.2 mmol, 0.50 g | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CN)N | C21H29N3O3S
reactant | 1-Hydroxy-7-azabenzotriazole | 1.3 mmol, 0.19 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.3 mmol, 0.26 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropyl-ethylamine | 1.3 mmol, 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-Benzyloxyindole | 1.3 mmol, 0.36 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | Diisopropylethylamine | 1.3 mmol, 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-amino-7-(((5-benzyloxy-1H-indole-2-carbonyl)amino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 569 mg | C(C)(C)(C)OC(=O)C1=C(SC=2C(N(CCC21)CC2=CC=C(C=C2)OC)CNC(=O)C=2NC1=CC=C(C=C1C2)OCC2=CC=CC=C2)N | C37H40N4O5S
